US04130579
In a dry 1-liter flask, equipped with a large magnetic stirrer, a reflux condenser capped with a nitrogen bubbler, an addition funnel, and a syringe adapter, was placed 570 ml of anhydrous THF, and 26.5 ml of diisopropylamine (via syringe). The mixture was cooled in a dry ice bath, and with stirring, 73.1 ml of 2.6 molar n-butyllithium in hexane was added via syringe. After the mixture had stirred for 1 hr, a solution of 13.1 g of freshly distilled isobutyronitrile in 40 ml of THF was added in 25 min. Following another 35 min of stirring, 25.0 g of α,α'-dibromo-o-xylene was added all at once. The mixture was stirred for 1 hr at -76°, and then overnight as the dry ice bath warmed to room temperature. After an additional 2 days of stirring at room temperature, the mixture was distilled on the water pump to remove the solvent. Dissolving of the resulting residue in 400 ml of chloroform, followed by 3 extractions of the chloroform solution with 200 ml of water (with HCl acidification during the first extraction), drying over anhydrous magnesium sulfate, and removal of the solvent on the water pump, gave 21.50 g (94%) of crude 1,2-bis(2-methyl-2-cyanopropyl)benzene melting at 76°-80°. Refluxing of this material with Darco in 425 ml of cyclohexane, followed by filtration, evaporation of the filtrate to 250 ml, seeding and then cooling to 8°-10°, gave 18.30 g of the product melting at 81.5-82°.

reactant | diisopropylamine | 26.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.6 molar, 73.1 ml | C(CCC)[Li]
reactant | isobutyronitrile | C(C(C)C)#N | C4H7N
reactant | α,α'-dibromo-o-xylene | 25.0 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | dry ice | C(=O)=O | CO2
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | THF | 570 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1,2-bis(2-methyl-2-cyanopropyl)benzene | 21.50 g, 94% | CC(CC1=C(C=CC=C1)CC(C)(C)C#N)(C)C#N | C16H20N2
